US04645771
A solution of 1-(4-benzoyloxybenzyl)-1,2,3,6-tetrahydropyridine (1.0 g.) in ethanol (15 ml.) and water (5 ml.) containing sodium hydroxide (0.245 g.) was stirred for 2.5 hours. Ice-water (35 ml.) was added followed by acetic acid to pH7. The solid which formed was collected by filtration, washed with water, dried and dissolved in acetone (10 ml.). The solution obtained was acidified with concentrated hydrochloric acid to pH3 to give 1-(4-hydroxybenzyl)-1,2,3,6-tetrahydropyridine hydrochloride (0.6 g.), m.p. 232°-4° C.

reactant | 1-(4-benzoyloxybenzyl)-1,2,3,6-tetrahydropyridine | 1.0 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(CN2CCC=CC2)C=C1 | C19H19NO2
reactant | sodium hydroxide | 0.245 g | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 1-(4-hydroxybenzyl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.6 g | Cl.OC1=CC=C(CN2CCC=CC2)C=C1 | InChI=1S/C12H15NO.ClH/c14-12-6-4-11(5-7-12)10-13-8-2-1-3-9-13;/h1-2,4-7,14H,3,8-10H2;1H
